US05516774
N-[4(5H-Pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)phenyl]-2-methylbenzene-acetamide
To a stirred solution of 0.334 g of 2-methylphenylacetyl chloride 5 ml of methylene chloride is added 0.346 g of triethylamine at 0° C. After stirring for 3 minutes, 0,500 g of 10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine is added and stirring continued for 72 hours at room temperature. The reaction mixture is diluted with 45 ml of methylene chloride and washed with water, 2N citric acid, NaHCO3, and brine. The reaction mixture is dried with Na2SO4, filtered through a pad of hydrous magnesium silicate and evaporated in vacuo to give a solid which is purified by flash chromatography using 1:1 ethyl acetate-hexane to give a solid which is crystallized from ethyl acetate to give 0.385 g of the desired product as white crystals, m.p. 198°-200° C.

reactant | 2-methylphenylacetyl chloride | 5 ml, 0.334 g | CC1=C(C=CC=C1)CC(=O)Cl | C9H9ClO
reactant | triethylamine | 0.346 g | C(C)N(CC)CC | C6H15N
reactant | 10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 0,500 g | NC1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1 | C19H17N3O
solvent | methylene chloride | 45 ml | C(Cl)Cl | CH2Cl2
product | N-[4(5H-Pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)phenyl]-2-methylbenzene-acetamide | 0.385 g | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC=C(C=C1)NC(CC1=C(C=CC=C1)C)=O | C28H25N3O2
